US05504107
(S)-5-Hexyl-2,2-dimethyl-1,3-dioxolan-4-one.
To a flame-dried 500 mL three-necked round bottom flask under nitrogen containing a suspension of 4.85 g (25.48 mmol) of cuprous iodide in 200 mL of anhydrous ether and held at -30° C. was added dropwise 31.85 mL of 1.6 M n-BuLi (50.96 mmol) in hexanes. The dark red-brown solution was stirred at -30° C. to -40° C. for 2 h and cooled to -78° C. (S)-5-(2-hydroxyethyl)-2,2-dimethyl-1,3-dioxolan-4-one p-toluenesulfonate (4.0 g, 12.74 mmol), dissolved in 30 mL of anhydrous ether and 10 mL of anhydrous tetrahydrofuran, was added dropwise while maintaining the temperature below -70° C. The reaction mixture was stirred for 18 h at -78° C. Following completion (TLC monitoring), the reaction was warmed to -10° C. and quenched by the addition of 125 mL of precooled saturated ammonium chloride solution. Ether (100 mL) was added and the mixture filtered over Celite. The aqueous phase was extracted with 3×175 mL ether. The combined ether extract was washed with 2×125 mL of saturated ammonium chloride solution, 1×75 mL of water and 2×100 mL of brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The product was purified (silica gel) using ethyl acetate:hexanes (1:5) as eluant to give 2.44 g (95%) of the title compound as a colorless oil: α!D25 0.6° (c=1.9, CH3OH); IR (KBr, cm-1) 2958, 2933, 2861, 1797; 1H NMR (CDCl3) δ 4.39 (dd, J=4.4, 7.1 Hz, 1H), 1.95-1.81 (m, 1H), 1.81-1.62 (m, 1H), 1.61 (s, 3H), 1.54 (s, 3H), 1.49-1.38 (m, 2H), 1.35-1.29 (m, 6H), 0.89 (t, J =6.6 13C NMR (CDCl3) δ 173.3, 110.2, 74.2, 31.7, 31.6, 28.8, 25.8, 24.8, 22.5, 13.9; HRMS calculated for C11H20O3 (M+), 200.1412, found 200.1422.

reactant | n-BuLi | 50.96 mmol, 1.6 M, 31.85 mL | [Li]CCCC
reactant | (S)-5-(2-hydroxyethyl)-2,2-dimethyl-1,3-dioxolan-4-one p-toluenesulfonate | 12.74 mmol, 4.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.OCC[C@H]1C(OC(O1)(C)C)=O
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (S)-5-Hexyl-2,2-dimethyl-1,3-dioxolan-4-one | 2.44 g, 95% | C(CCCCC)[C@H]1C(OC(O1)(C)C)=O | C11H20O3
